US08258122B2
a) Ethyl 2-methyl-2-(tetrahydro-2H-pyran-2-yloxy)propanoate
To a solution of ethyl 2-hydroxy-2-methylpropanoate (5.20 mL, 38.06 mmol) in dichloromethane (100 mL) were sequentially added pyridine 4-methylbenzenesulfonate (1.0 g, 3.80 mmol) and 3,4-dihydro-2H-pyran (5.20 ml, 57.0 mmol). The resulting mixture was stirred at room temperature overnight. Ethyl ether was added (600 mL) and the resulting organic layer was washed with brine (3×100 ml), dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give the title compound (7.85 g, 95%).

reactant | ethyl 2-hydroxy-2-methylpropanoate | 38.06 mmol, 5.20 mL | OC(C(=O)OCC)(C)C | C6H12O3
reactant | pyridine 4-methylbenzenesulfonate | 3.80 mmol, 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)O.N1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 57.0 mmol, 5.20 ml | O1CCCC=C1 | C5H8O
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl 2-methyl-2-(tetrahydro-2H-pyran-2-yloxy)propanoate | 7.85 g, 95% | CC(C(=O)OCC)(C)OC1OCCCC1 | C11H20O4
